US06218376B1
i) 5-(3-Chlorophenyl)-3-oxopentanoic acid, ethyl ester
To a solution of LDA (2.0M solution in heptanes/tetrahydrofuran/ethylbenzene, 500 ml) in tetrahydrofuran (2 L) at 0° C. was added ethyl acetoacetate (62 ml). After 40 min 3-chlorobenzyl bromide (100 g) was added dropwise and the mixture was stirred at 0° C. for 1 hour. The reaction mixture was acidified with 2N HCl and the organic phase was concentrated under reduced pressure. The residue was dissolved in ethyl acetate and washed with water and brine, dried (MgSO4) and evaporated. Purification was by chromatography eluting with 5-10% ethyl acetate in isohexane.

reactant | LDA | 2.0M, 500 ml | [Li+].CC(C)[N-]C(C)C
reactant | ethyl acetoacetate | 62 ml | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | 3-chlorobenzyl bromide | 100 g | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
reactant | HCl | 2N | Cl | ClH
solvent | tetrahydrofuran | 2 L | O1CCCC1 | C4H8O
product | 5-(3-Chlorophenyl)-3-oxopentanoic acid, ethyl ester | ClC=1C=C(C=CC1)CCC(CC(=O)OCC)=O | C13H15ClO3
